US07122545B2
6.54 g 4-Azido-5-hydroxy-azepane-1-carboxylic acid tert-butyl ester in 51 ml methanol were hydrogenated in the presence of 0.6 g palladium on charcoal (10%) to yield 5.85 g (quant.) 4-amino-5-hydroxy-azepane-1-carboxylic acid tert-butyl ester as viscous oil; MS (ISP): m/e=231 (M+H+).

reactant | 4-Azido-5-hydroxy-azepane-1-carboxylic acid tert-butyl ester | 6.54 g | C(C)(C)(C)OC(=O)N1CCC(C(CC1)O)N=[N+]=[N-] | C11H20N4O3
solvent | methanol | 51 ml | CO | CH4O
catalyst | palladium on charcoal | 0.6 g | [Pd] | Pd
product | 4-amino-5-hydroxy-azepane-1-carboxylic acid tert-butyl ester | 5.85 g | C(C)(C)(C)OC(=O)N1CCC(C(CC1)O)N | C11H22N2O3
